US09326973B2
To a solution of (S)-3-azido-4,4-dimethyldihydrofuran-2(3H)-one (5.52 g) in MeOH 910 mL) was added 10% Pd/C (0.379 g, 0.356 mmol) under N2. The reaction mixture was stirred under H2 at rt for 16 hrs. The reaction was filtered through diatomaceous earth (Celite®), washed with EtOAc and the filtrate was concentrated to yield a clear oil. To the above oil in DCM (10 mL) was added BOC2O (9.09 mL) and TEA (13.88 mL). The reaction mixture was stirred at rt for 16 hrs. The reaction mixture was diluted with EtOAc, washed with sat. NaHCO3, citric acid, water, sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated to yield an oil. The crude product was purified by silica gel chromatography (0-100% EtOAc in hexane) to yield (S)-tert-butyl 4,4-dimethyl-2-oxotetrahydrofuran-3-ylcarbamate (3.8 g) as a white solid. LC/MS (Cond. N-1): [M+Na]+ 252.06, RT=2.75 min. 1H NMR (400 MHz, CHLOROFORM-d) ppm 4.81-4.95 (1H, m), 4.38 (1H, d, J=7.78 Hz), 3.97-4.07 (2H, m), 1.47 (9H, s), 1.25 (3H, s), 1.01 (3H, s).

reactant | (S)-3-azido-4,4-dimethyldihydrofuran-2(3H)-one | 5.52 g | N(=[N+]=[N-])[C@@H]1C(OCC1(C)C)=O | C6H9N3O2
reactant | BOC2O | 9.09 mL | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 910 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.356 mmol, 0.379 g | [Pd] | Pd
product | (S)-tert-butyl 4,4-dimethyl-2-oxotetrahydrofuran-3-ylcarbamate | 3.8 g | CC1([C@@H](C(OC1)=O)NC(OC(C)(C)C)=O)C | C11H19NO4
